US07872014B2
5-[5-Amino-1-(1,1-diethylethyl)-3-methyl-1H-pyrazol-4-yl]-3-fluoro-2-(methyloxy)phenol (2.2 g, 7.5 mmol.) and 3-chloro-4-[(phenylmethyl)oxy]benzaldehyde (2.23 g, 8.6 mmol.) were taken into acetic acid (25 mL) and the resulting mixture heated to 90° C. over 12 hours. An additional aliquot of benzaldehyde (250 mg) was then added and heating was continued an additional 7 hours. At this time air was bubbled through the solution at a steady rate while maintaining a temperature of 90° C. then the mixture was allowed to cool to room temperature. The acetic acid was removed and the residue partitioned with saturated aquyeous sodium hydrogencarbonate and ethyl acetate. The organic layer was then washed once with brine then dried over anhydrous sodium sulfate, filtered and concentrated to give a residue containing roughly a 1:1 mixture of two cyclization products. The desired cyclization isomer was purified by silica gel flash chromatography using 2:1 hexanes ethyl acetate as eluent to afford 5-{3-chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6-fluoro-1-methyl-7-(methyloxy)-3H-pyrazolo[3,4-c]isoquinolin-8-ol (1.73 g, 44% yield) as a yellow solid after concentration and drying of the pure fractions in vacuo. 1H NMR (400 MHz, CDCl3): 7.66 (dd, 1H), 7.59 (d, 1H), 7.54 (d, 1H), 7.46-7.34 (m, 5H), 7.07 (d, 1H), 6.54 (s, 1H), 5.25 (S, 2H), 4.03 (d, 3H), 2.80 (s, 3H), 1.83 (s, 9H); MS (EI) for C29H27N3O3FCl: 520 (MH+).

reactant | 5-[5-Amino-1-(1,1-diethylethyl)-3-methyl-1H-pyrazol-4-yl]-3-fluoro-2-(methyloxy)phenol | 7.5 mmol, 2.2 g | NC1=C(C(=NN1C(C)(CC)CC)C)C=1C=C(C(=C(C1)O)OC)F | C17H24FN3O2
reactant | 3-chloro-4-[(phenylmethyl)oxy]benzaldehyde | 8.6 mmol, 2.23 g | ClC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C14H11ClO2
reactant | benzaldehyde | 250 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 5-{3-chloro-4-[(phenylmethyl)oxy]phenyl}-3-(1,1-dimethylethyl)-6-fluoro-1-methyl-7-(methyloxy)-3H-pyrazolo[3,4-c]isoquinolin-8-ol | 1.73 g, 44% yield | ClC=1C=C(C=CC1OCC1=CC=CC=C1)C1=NC2=C(C=3C=C(C(=C(C13)F)OC)O)C(=NN2C(C)(C)C)C | C29H27ClFN3O3
